US06440995B1
To a −78° C. solution of 4-chloro-6-methoxy-2-phenyl-quinoline (1.0 g, 3.7 mmol) in CH2Cl2 (25 ml) was added dropwise BBr3 (11.1 ml, 11.1 mmol, 1M in CH2Cl2). Reaction mixture was then allowed to warm to room temperature. After 4.5 hours, mixture was cooled to −10° C. and quenched slowly with a saturated solution of NaHCO3 (70 ml). The aqueous phase was extracted with ethyl acetate (3×100 ml). Combined organic phases were dried over Na2SO4 and concentrated. The solid residue was refluxed during 1 hour in ethyl acetate (30 ml), cooled to room temperature, and filtered. Filtrate was concentrated and chromatographed over silica gel (hexane-ethyl acetate, 4:1) to provide 4-chloro-2-phenyl-quinolin-6-ol (0.375 g, 40%) as a yellow solid, m. p. 180-181° C., MS: m/e=255 (M+).

reactant | 4-chloro-6-methoxy-2-phenyl-quinoline | 3.7 mmol, 1.0 g | ClC1=CC(=NC2=CC=C(C=C12)OC)C1=CC=CC=C1 | C16H12ClNO
reactant | BBr3 | 11.1 mmol, 1M, 11.1 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-phenyl-quinolin-6-ol | 0.375 g, 40% | ClC1=CC(=NC2=CC=C(C=C12)O)C1=CC=CC=C1 | C15H10ClNO
